US04238494
Dry hydrogen chloride was passed through a stirred solution of 1-nitro-2-methylthio-2-(2,2-diethoxyethylamino)-ethylene (9.7g, 0.04 mol) in dry ether (250 ml) at 5-10° for 3 hours. The resulting mixture was basified by pouring it into potassium carbonate solution (300 ml). The mixture was filtered to give a yellow solid, and the aqueous phase of the filtrate was separated and extracted with ether (2×150 ml). The combined ether solutions were evaporated to a residue. This residue and the solid filtered off earlier were recrystallised from acetone-chloroform to give 2-methylthio-3-nitropyrrole (3.4g, 54%) m.p. 212-213°.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-nitro-2-methylthio-2-(2,2-diethoxyethylamino)-ethylene | 0.04 mol | [N+](=O)([O-])C=C(NCC(OCC)OCC)SC | C9H18N2O4S
reactant | potassium carbonate | 300 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-methylthio-3-nitropyrrole | 3.4g, 54% | CSC=1NC=CC1[N+](=O)[O-] | C5H6N2O2S
